US07495001B2
In analogy to the procedures described in example 4D] and 4E], 2-(4-hydroxy-naphthalen-2-yloxy)-2-methyl-propionic acid ethyl ester (example 17D]) was reacted with 2-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol (example 16B]) to give 2-(4-{2-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethoxy}-naphthalen-2-yloxy)-2-methyl-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as light yellow solid.

reactant | 2-(4-hydroxy-naphthalen-2-yloxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC2=CC=CC=C2C(=C1)O)=O | C16H18O4
reactant | 2-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol | C1(CC1)C1=NC(=NC=C1CCO)C1=CC=C(C=C1)C(F)(F)F | C16H15F3N2O
product | 2-(4-{2-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethoxy}-naphthalen-2-yloxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC2=CC=CC=C2C(=C1)OCCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C32H31F3N2O4
